US05318966
2.35 g (0.0116 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole were dissolved in 40 ml of CH2Cl2, 2.80 ml (0.0201 mol) of triethylamine were added thereto and a solution of 1.1 ml (0.0127 mol) of propionyl chloride in 10 ml of CH2Cl2 was added dropwise thereto at 25° under argon. The mixture was stirred at room temperature for 1 hour, then poured into water and extracted with CH2Cl2. The organic phase was dried with MgSO4, filtered and concentrated. By chromatography of the residue over silica gel with ether/ethyl acetate 1:1 there were obtained 3.0 g (99.7%) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-propionyl-1H-benzo[e]indole as a pale yellow, oily material which crystallized overnight; m.p. 81°.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.0116 mol, 2.35 g | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
reactant | triethylamine | 0.0201 mol, 2.80 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.0127 mol, 1.1 ml | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-propionyl-1H-benzo[e]indole | 3.0 g, 99.7% | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)C(CC)=O | C16H21NO2
